US06197959B1
In analogy to the procedure described in example 4(b), the (3R,4R)-3-(1-cyanomethyl-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester was deprotected with HCl/methanol to yield the (3R,4R)-[7-(4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidin-3-yloxymethyl)-3,4-dihydro-2H-quinolin-1-yl]-acetonitrile as a yellow oil; MS: 556 (M+H)+.

reactant | (3R,4R)-3-(1-cyanomethyl-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC=C2CCCN(C2=C1)CC#N | C39H49N3O6
reactant | HCl methanol | Cl.CO
product | (3R,4R)-[7-(4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidin-3-yloxymethyl)-3,4-dihydro-2H-quinolin-1-yl]-acetonitrile | COC1=C(COCCCOC2=CC=C(C=C2)[C@@H]2[C@H](CNCC2)OCC2=CC=C3CCCN(C3=C2)CC#N)C=CC=C1 | C34H41N3O4
